US09422279B2
To a solution of 6-methoxypyridin-3-ol (20 g, 0.16 mol) in DMF (200 mL) was added NaH (60% in mineral oil; 9.6 g, 0.24 mol) at 0-5° C. portion-wise. Upon the completion of addition, the mixture was continued to stir at 0-5° C. for 15 min followed by additional of chloromethyl methyl ether. The mixture was stirred at 0-5° C. for another 20 min and quenched with aqueous NH4Cl(sat). The aqueous layer was extracted with EtOAc (3×100 mL) and the combined organic layer was washed with water and brine, dried over Na2SO4, and concentrated under reduced pressure. The residue was purified on silica gel with 25% EtOAc/hexanes as eluent to give 2-methoxy-5-(methoxymethoxy)pyridine (24.1 g, 89.3%) as a colorless oil. 1H NMR (400 MHz; CDCl3) 7.97 (d, 1H), 7.35 (dd, 1H), 6.70 (d, 1H), 5.12 (s, 2H), 3.91 (s, 3H), 3.51 (s, 3H); MS (ESI) m/z 170.1 [M+H]+.

reactant | 6-methoxypyridin-3-ol | 0.16 mol, 20 g | COC1=CC=C(C=N1)O | C6H7NO2
reactant | NaH | 0.24 mol, 9.6 g | [H-].[Na+]
reactant | chloromethyl methyl ether | COCCl | C2H5ClO
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 2-methoxy-5-(methoxymethoxy)pyridine | 24.1 g, 89.3% | COC1=NC=C(C=C1)OCOC | C8H11NO3
